US05677302
To a suspension of 3-(1-oxoethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole (729 mg, 3.36 mmol) in 200 mL methanol, was added sodium borohydride (140 mg, 3.69 mmol). The mixture was stirred for 30 min and 0.1 mL of water was added. The methanol was evaporated and the residue was partitioned between ethyl acetate and 0.1M hydrochloric acid. The aqueous phase was extracted with ethyl acetate. The organic phases were combined, washed twice with brine, dried and evaporated. The crude residue was purified by chromatography using chloroform/methanol to give 3-(1-hydroxyethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole. mp 174°-175° C.; 1H NMR (CDCl3) δ8.05 (d, 1H), 7.80 (d, 1H), 7.47 (td, 1H), 7.36 (td, 1H), 5.39 (q, 1H), 2.76 (d, 1H), 1.84 (d, 3H) ppm; IR (KBr) ν3136, 1544, 1494, 1478, 1451, 1374, 1250, 1200, 1123, 1103, 1093, 752, 729, 711 cm-1 ; MS m/z 219 (M+), 148 (M+ -CH3CH(OH)CN).

reactant | 3-(1-oxoethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | 3.36 mmol, 729 mg | O=C(C)C1=NSC2=NC3=C(N21)C=CC=C3 | C10H7N3OS
reactant | sodium borohydride | 3.69 mmol, 140 mg | [BH4-].[Na+]
reactant | water | 0.1 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 3-(1-hydroxyethyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | OC(C)C1=NSC2=NC3=C(N21)C=CC=C3 | C10H9N3OS
